US04187216
3.0 g of N-benzyloxycarbonyl-L-alanyl-L-alanine cyclohexylamide were treated with hydrogen bromide in acetic acid in a manner analogous to that described in Example 1(B)(ii) to give L-alanyl-L-alanine cyclohexylamide hydrobromide in the form of an oil.

reactant | N-benzyloxycarbonyl-L-alanyl-L-alanine cyclohexylamide | 3.0 g | C1(CCCCC1)NC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)C)=O | C20H29N3O4
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | L-alanyl-L-alanine cyclohexylamide hydrobromide | Br.C1(CCCCC1)NC([C@@H](NC([C@@H](N)C)=O)C)=O | InChI=1S/C12H23N3O2.BrH/c1-8(13)11(16)14-9(2)12(17)15-10-6-4-3-5-7-10;/h8-10H,3-7,13H2,1-2H3,(H,14,16)(H,15,17);1H/t8-,9-;/m0./s1
